Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][c:13]4[cH:14][c:15]([F:16])[cH:17][c:18]([C:19]([NH2:20])=[O:21])[c:22]4[o:23]3)[cH:24][cH:25]2)[CH2:26][CH2:27]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][c:13]4[cH:14][c:15]([F:16])[cH:17][c:18]([C:19]([NH2:20])=[O:21])[c:22]4[o:23]3)[cH:24][cH:25]2)[CH2:26][CH2:27]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][c:13]4[cH:14][c:15]([F:16])[cH:17][c:18]([C:19]([NH2:20])=[O:21])[c:22]4[o:23]3)[cH:24][cH:25]2)[CH2:26][CH2:27]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][c:13]4[cH:14][c:15]([F:16])[cH:17][c:18]([C:19]([NH2:20])=[O:21])[c:22]4[o:23]3)[cH:24][cH:25]2)[CH2:26][CH2:27]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[O:3][c:4]1[cH:9][cH:8][cH:7][cH:6][cH:5]1.[CH3:10][C@H:11]1[CH2:12][O:13][CH2:14][CH2:15][N:16]1[c:17]1[cH:18][c:19]([C:20]2([S:21](=[O:22])(=[O:23])[c:24]3[cH:25][cH:26][cH:27][n:28][c:29]3[C:30](=[O:31])[N:32]([CH3:33])[CH3:34])[CH2:35][CH2:36]2)[n:37][c:38](-[c:39]2[cH:45][cH:44][c:42]([NH2:43])[cH:41][cH:40]2)[n:46]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:43][c:42]1[cH:41][cH:40][c:39](-[c:38]2[n:37][c:19]([C:20]3([S:21](=[O:22])(=[O:23])[c:24]4[cH:25][cH:26][cH:27][n:28][c:29]4[C:30](=[O:31])[N:32]([CH3:33])[CH3:34])[CH2:35][CH2:36]3)[cH:18][c:17]([N:16]3[C@@H:11]([CH3:10])[CH2:12][O:13][CH2:14][CH2:15]3)[n:46]2)[cH:45][cH:44]1,[CH3:10][C@H:11]1[CH2:12][O:13][CH2:14][CH2:15][N:16]1[c:17]1[cH:18][c:19]([C:20]2([S:21](=[O:22])(=[O:23])[c:24]3[cH:25][cH:26][cH:27][n:28][c:29]3[C:30](=[O:31])[N:32]([CH3:33])[CH3:34])[CH2:35][CH2:36]2)[n:37][c:38](-[c:39]2[cH:40][cH:41][c:42]([NH2:43])[cH:44][cH:45]2)[n:46]1.[Cl:101][C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:43][c:42]1[cH:41][cH:40][c:39](-[c:38]2[n:37][c:19]([C:20]3([S:21](=[O:22])(=[O:23])[c:24]4[cH:25][cH:26][cH:27][n:28][c:29]4[C:30](=[O:31])[N:32]([CH3:33])[CH3:34])[CH2:35][CH2:36]3)[cH:18][c:17]([N:16]3[C@@H:11]([CH3:10])[CH2:12][O:13][CH2:14][CH2:15]3)[n:46]2)[cH:45][cH:44]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(43, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[n:8][cH:9]1.[O:10]=[N+:11]([O-:12])[c:13]1[cH:14][c:15]([OH:16])[cH:17][cH:18][c:19]1[Cl:20]>>[c:1]1([O:16][c:15]2[cH:14][c:13]([N+:11](=[O:10])[O-:12])[c:19]([Cl:20])[cH:18][cH:17]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[n:8][cH:9]1,[O:10]=[N+:11]([OH:12])[c:13]1[cH:14][c:15]([OH:16])[cH:17][cH:18][c:19]1[Cl:20].[Br:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[n:8][cH:9]1.[H-:301].[Na+]>>[c:1]1([O:16][c:15]2[cH:14][c:13]([N+:11](=[O:10])[OH:12])[c:19]([Cl:20])[cH:18][cH:17]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[n:8][cH:9]1,SNAr_alco(thi)ol(para),"[(301, 16.1), ([16.1, 16], 16), (16, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH2:1][CH3:2].[CH3:3][O:4][c:5]1[cH:6][cH:7][c:8]([CH2:9][CH:10]2[c:11]3[c:12]([OH:13])[cH:14][cH:15][c:16]([O:17][CH3:18])[c:19]3[CH2:20][CH2:21][N:22]2[CH2:23][C:24](=[O:25])[NH:26][CH2:27][c:28]2[cH:29][cH:30][cH:31][cH:32][n:33]2)[cH:34][c:35]1[O:36][CH3:37]>>[CH2:1]([CH3:2])[O:13][c:12]1[c:11]2[c:19]([c:16]([O:17][CH3:18])[cH:15][cH:14]1)[CH2:20][CH2:21][N:22]([CH2:23][C:24](=[O:25])[NH:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][n:33]1)[CH:10]2[CH2:9][c:8]1[cH:7][cH:6][c:5]([O:4][CH3:3])[c:35]([O:36][CH3:37])[cH:34]1,[CH3:3][O:4][c:5]1[cH:6][cH:7][c:8]([CH2:9][CH:10]2[c:11]3[c:12]([OH:13])[cH:14][cH:15][c:16]([O:17][CH3:18])[c:19]3[CH2:20][CH2:21][N:22]2[CH2:23][C:24](=[O:25])[NH:26][CH2:27][c:28]2[cH:29][cH:30][cH:31][cH:32][n:33]2)[cH:34][c:35]1[O:36][CH3:37].[I:101][CH2:1][CH3:2].[H-:301].[Na+]>>[CH2:1]([CH3:2])[O:13][c:12]1[c:11]2[c:19]([c:16]([O:17][CH3:18])[cH:15][cH:14]1)[CH2:20][CH2:21][N:22]([CH2:23][C:24](=[O:25])[NH:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][n:33]1)[CH:10]2[CH2:9][c:8]1[cH:7][cH:6][c:5]([O:4][CH3:3])[c:35]([O:36][CH3:37])[cH:34]1,SN2_alcohol(thiol),"[(301, 13.1), ([13.1, 13], 13), (13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
